* strained transient strain profile
            .include strain_wrap.inc
            Veps eps_s 0 SIN(0.0 0.005 0.3 0 0 0)
            Valp alpha 0 dc 0.0
            Vdd d 0 dc 1.0
Vgs g 0 dc 0.75
Vss s 0 dc 0.0
Vbb b 0 dc 0.0
            Xwrap d g s b eps_s alpha strain_aware_device nu=0.47 beta=0.8 gamma=0.0 vth0=0.4 mu0=0.04 nu=0.47 beta=0.8 gamma=0.0 beta_r=2.0 gamma_r=0.0 tau_m=0.05 tau_load=0.02 tau_unload=0.1
            .tran 0.01 5.0
            .print tran time v(eps_s) v(alpha) i(Vdd)
            .end
